US04028360
6-(Triphenylmethylamino)-2,2-dimethyl-3-[1-(4-methoxybenzyl)pyrimidin-4,6-dione-2-yl]penam
To a stirred solution of 21.44 g. (104 mmoles) of N,N'-dicyclohexylcarbodiimide in 122 ml. of methylene chloride and 15 ml. dimethylformamide at -5° C., a solution of 29.9 g. (52 mmoles) of 6-(triphenylmethylamino)-2,2-dimethyl-3-[N'-(4-methoxybenzyl)amidino]penam and 5.41 g. (52 mmoles) of malonic acid in 122 ml. methylene chloride and 15 ml. dimethylformamide is added dropwise over 2 hours. The mixture is then stirred for 24 hours at 25° C. The N,N'-dicyclohexylurea precipitate (18.6 g., 79.8% of theory) is filtered off, and the filtrate washed with six 150 ml. portions of water. It is dried over anhydrous sodium sulfate and then rotoevaporated to yield the title compound in crude form as an orange foam (32.6 g.). The crude product is divided into two equal portions for silica gel chromatography (ethyl acetate elution) affording a total of 10.61 g. (31.6%) of the purified title compound. 1H--NHR (CDCl3) ppm (δ) 1.01 (3H, s, 2--CH3); 1.44 (3H, s, 2--CH3); 3.80 (3H, s, --OCH3); 4.31-4.73 (3H, m; 3-, 5- and 6--H); 5.25 (2H, s, --CH2 --); 4H, AB, Ha within a 7.18-7.68 multiplet, Hb centered at 6.91, J= 8 Hz, CH3O--C6H4 --); 7.18-7.68 (15H, m, C6H5 --).

reactant | N,N'-dicyclohexylcarbodiimide | 104 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 6-(triphenylmethylamino)-2,2-dimethyl-3-[N'-(4-methoxybenzyl)amidino]penam | 52 mmoles | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C(N)=NCC2=CC=C(C=C2)OC)C1=O | C35H36N4O2S
reactant | malonic acid | 52 mmoles | C(CC(=O)O)(=O)O | C3H4O4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(Triphenylmethylamino)-2,2-dimethyl-3-[1-(4-methoxybenzyl)pyrimidin-4,6-dione-2-yl]penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C=2N(C(CC(N2)=O)=O)CC2=CC=C(C=C2)OC)C1=O | C38H36N4O4S
